US07687490B2
A solution of 6.0 ml of t-butyl nitrite in 120 ml of acetonitrile was cooled in ice under an argon atmosphere, and 9.64 g of diiodomethane and 5.16 g of 2-amino-4-ethoxycarbonylthiazole were added to the cooled solution. The mixture was stirred at room temperature for one hr, brine was added thereto, and the mixture was extracted twice with ethyl acetate. The organic layers were combined, were washed twice with brine, were dried over anhydrous magnesium sulfate, were filtered, and were concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1 to 3:1) to give 5.58 g of 4-ethoxycarbonyl-2-iodothiazole.

reactant | t-butyl nitrite | 6.0 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | diiodomethane | 9.64 g | ICI | CH2I2
reactant | 2-amino-4-ethoxycarbonylthiazole | 5.16 g | NC=1SC=C(N1)C(=O)OCC | C6H8N2O2S
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | 4-ethoxycarbonyl-2-iodothiazole | 5.58 g | C(C)OC(=O)C=1N=C(SC1)I | C6H6INO2S
